US09126980B2
Step 3: Preparation of (S)-ethyl 1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-5-methyl-1H-pyrazole-3-carboxylate
To an ice cooled solution of 5-bromo-2-(3-(ethoxycarbonyl)-5-methyl-1H-pyrazol-1-yl)benzoic acid (45.0 g, 127.8 mmol) in DCM (450 mL) were added (S)-(1,2,3,4-tetrahydroisoquinolin-3-yl)methanol (20.8 g, 102.27 mmol), HATU (72.7 g, 191.2 mmol), DIPEA (55.7 mL, 319.6 mmol) followed by stirring at RT for 12 h. The reaction mixture was diluted with DCM (750 mL), washed with water (500 mL), brine (100 mL), dried over sodium sulphate and concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as a liquid 50 g (79%). Rf=0.44 (55% EtOAc in hexane); 1H NMR (400 MHz, DMSO-d6): δ 8.00-7.40 (m, 3H), 7.30-7.00 (m, 4H), 6.80-6.40 (m, 1H), 5.10-3.80 (m, 7H), 3.50-2.40 (m, 3H), 2.40-2.10 (m, 3H), 1.30-1.00 (m, 3H); ES-MS: m/z 498.2 (M+H).

reactant | 5-bromo-2-(3-(ethoxycarbonyl)-5-methyl-1H-pyrazol-1-yl)benzoic acid | 127.8 mmol, 45.0 g | BrC=1C=CC(=C(C(=O)O)C1)N1N=C(C=C1C)C(=O)OCC | C14H13BrN2O4
reactant | (S)-(1,2,3,4-tetrahydroisoquinolin-3-yl)methanol | 102.27 mmol, 20.8 g | C1N[C@@H](CC2=CC=CC=C12)CO | C10H13NO
reactant | HATU | 191.2 mmol, 72.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 319.6 mmol, 55.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 450 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 750 mL | C(Cl)Cl | CH2Cl2
product | (S)-ethyl 1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-5-methyl-1H-pyrazole-3-carboxylate | 50 g, 79% | BrC1=CC(=C(C=C1)N1N=C(C=C1C)C(=O)OCC)C(=O)N1CC2=CC=CC=C2C[C@H]1CO | C24H24BrN3O4
